US04331817
2-Bromo-4-thiocyanoaniline
To a cold (0°-5° C.), stirred solution of o-bromoaniline (20.6 g., 0.12 mole) and sodium thiocyanate (29.2 g., 0.36 mole) in methanol (300 ml.) is added dropwise a solution of bromine (19.5 g., 0.122 mole) in methanol (75 ml.) saturated with sodium bromide. The solution is stirred for one hour following the addition of the bromine and then poured into water (2 liters) and neutralized with sodium carbonate. The resulting solid is collected, washed with water and dried, m.p. 74°-79° C., yield 96% of theoretical.

reactant | o-bromoaniline | 0.12 mole, 20.6 g | BrC1=C(N)C=CC=C1 | C6H6BrN
reactant | sodium thiocyanate | 0.36 mole, 29.2 g | [S-]C#N.[Na+]
reactant | bromine | 0.122 mole, 19.5 g | BrBr | Br2
reactant | sodium bromide | [Br-].[Na+]
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
solvent | methanol | 300 ml | CO | CH4O
solvent | methanol | 75 ml | CO | CH4O
solvent | water | 2 liters | O | H2O
product | 2-Bromo-4-thiocyanoaniline | yield 96% | BrC1=C(N)C=CC(=C1)SC#N | C7H5BrN2S
